US05491153
Scheme I, Step d2 : 3-[(p-fluorophenacyl)amino]-2-carbethoxy-4,6-dichloro-1-(tert-butyloxycarbonyl)-indole
Mix 3-[(p-fluorophenacyl)amino]-2-carbethoxy-4,6-dichloroindole (1.5 g, 3.8mmol), di-tert-butyl dicarbonate (890 mg, 4 mmol), tetrahydrofuran (50 mL),dimethylaminopyridine (42 mg, 0.4 mmol) and stir at room temperature for 1 hour. Concentrate the reaction in vacuo and purify by flash chromatograpy (25% ethyl actetate/hexane) to yield the title compound as a clear oil (1.8 g, 95%).

reactant | 3-[(p-fluorophenacyl)amino]-2-carbethoxy-4,6-dichloroindole | 3.8mmol, 1.5 g | FC1=CC=C(C(CNC2=C(NC3=CC(=CC(=C23)Cl)Cl)C(=O)OCC)=O)C=C1 | C19H15Cl2FN2O3
reactant | di-tert-butyl dicarbonate | 4 mmol, 890 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dimethylaminopyridine | 0.4 mmol, 42 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 3-[(p-fluorophenacyl)amino]-2-carbethoxy-4,6-dichloro-1-(tert-butyloxycarbonyl)-indole | 1.8 g, 95% | FC1=CC=C(C(CNC2=C(N(C3=CC(=CC(=C23)Cl)Cl)C(=O)OC(C)(C)C)C(=O)OCC)=O)C=C1 | C24H23Cl2FN2O5
